US08431695B2
Step 2: Preparation of tert-butyl 1-(2-fluorobenzyl)-2-isopropylidenehydrazinecarboxylate
Powdered KOH (4.24 g, 75.48 mmol) and tetrabutylammonium hydrogen sulfate (1.97 g, 5.81 mmol) were added to a solution of tert-butyl 2-isopropylidenehydrazinecarboxylate (10 g, 58.05 mmol) in toluene (150 mL). The mixture was stirred vigorously and heated to 50° C. and 1-(bromomethyl)-2-fluorobenzene (13.17 g, 69.68 mmol) was added slowly. The temperature was increased to 80° C. and maintained for 3 h and cooled to room temperature. The mixture was washed with water until the pH of the aqueous wash was neutral. The organic layer was washed with brine and dried over MgSO4 and concentrated to give a yellow oil (17.11 g) used for the next step without further purification). LC-MS [M+H]+=280.9, RT=3.41 min.

reactant | KOH | 75.48 mmol, 4.24 g | [OH-].[K+]
reactant | tert-butyl 2-isopropylidenehydrazinecarboxylate | 58.05 mmol, 10 g | C(C)(C)=NNC(=O)OC(C)(C)C | C8H16N2O2
reactant | 1-(bromomethyl)-2-fluorobenzene | 69.68 mmol, 13.17 g | BrCC1=C(C=CC=C1)F | C7H6BrF
catalyst | tetrabutylammonium hydrogen sulfate | 5.81 mmol, 1.97 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 1-(2-fluorobenzyl)-2-isopropylidenehydrazinecarboxylate | 17.11 g | FC1=C(CN(N=C(C)C)C(=O)OC(C)(C)C)C=CC=C1 | C15H21FN2O2
